US08529671B2
Under a nitrogen atmosphere, a mixture of 1-octadecanol (36 grams, 210 mmol), pyridine (20 milliliters), and dichloromethane (500 milliliters) was heated to reflux. The alcohol dissolved and the solution was allowed to cool 5° C. 4-Nitrobenzoyl chloride (39.0 grams, 210 mmol) was added in portions over a twenty minute period. The reaction mixture was heated to reflux for sixteen hours. The reaction mixture was washed with 250 milliliters of water. The aqueous layer was washed with 250 milliliters of dichloromethane. The organic layers were combined and concentrated under reduced pressure to a light tan solid. Added 500 milliliters of hexane and heated to reflux. A white precipitate formed as the solution was cooled to room temperature. Filtered off the white precipitate and concentrated the filtrate to a light tan solid. The solid was recrystallized from ethanol (500 milliliters) to obtain 46 grams of octadecyl 4-nitrobenzoate as a white solid.

reactant | 1-octadecanol | 210 mmol, 36 grams | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | pyridine | 20 milliliters | N1=CC=CC=C1 | C5H5N
reactant | 4-Nitrobenzoyl chloride | 210 mmol, 39.0 grams | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | dichloromethane | 500 milliliters | ClCCl | CH2Cl2
product | octadecyl 4-nitrobenzoate | 46 grams | [N+](=O)([O-])C1=CC=C(C(=O)OCCCCCCCCCCCCCCCCCC)C=C1 | C25H41NO4
